US05849764
1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanol
To a solution of 1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanone (45 mg in 2 mL dry tetrahydrofuran) at 0° C. was added 0.30 mL of a 1M solution of lithium aluminum hydride in tetrahydrofuran and the mixture stirred at low temperature. After 45 minutes, the reaction was quenched by the addition of saturated aqueous ammonium chloride and the mixture extracted with ethyl acetate. The organic portion was washed with brine, dried over sodium sulfate and purified by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 90:10:0.25) to give the title compound (40 mg). m/e=442 (M+H).

reactant | 1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanone | 2 mL, 45 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=NC=C1)C(C)=O | C29H33N3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanol | 40 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=NC=C1)C(C)O | C29H35N3O
